US07652058B2
(3aS,6R,7R,7aR)-6-{(1R)-1-[3,5-bis(Trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-2-methylphenyl)-2-isopropyloctahydropyrano[3,4-c]pyrrole
To a solution of (3aS,6R,7R,7aR)-6-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-2-methylphenyl)octahydropyrano[3,4-c]pyrrole (29.6 mg, 0.06 mmol), acetone (0.044 mL, 0.60 mmol) and NaB(OAc)3H (69 mg, 0.33 mmol) in DCM was added 1 drop of HOAc and was stirred at rt for 16 hr. The mixture was diluted with DCM and was washed with NaHCO3. The organic phase was dried with Na2SO4, filtered and concentrated. The crude was purified by reverse phase HPLC to afford the title compound. MS: (MH)+534.

reactant | (3aS,6R,7R,7aR)-6-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-2-methylphenyl)octahydropyrano[3,4-c]pyrrole | 0.06 mmol, 29.6 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@@H]1[C@H]([C@H]2[C@@H](CNC2)CO1)C1=C(C=C(C=C1)F)C)(F)F | C24H24F7NO2
reactant | acetone | 0.60 mmol, 0.044 mL | CC(=O)C | C3H6O
reactant | NaB(OAc)3H | 0.33 mmol, 69 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | HOAc | 1 drop | CC(=O)O | C2H4O2
product | (3aS,6R,7R,7aR)-6-{(1R)-1-[3,5-bis(Trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-2-methylphenyl)-2-isopropyloctahydropyrano[3,4-c]pyrrole | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@@H]1[C@H]([C@H]2[C@@H](CN(C2)C(C)C)CO1)C1=C(C=C(C=C1)F)C)(F)F | C27H30F7NO2
